US06333358B1
In 20 ml of nitrobenzene were refluxed 2.27 g of N-acetyl-2-phenoxyaniline, 1.3 ml of 2-iodoanisole, 1.38 g of potassium carbonate, 133 mg of a copper powder and 200 mg of copper bromide under heating for 8 hours. The reaction solution was cooled to room temperature, and after addition of ethyl acetate, the insoluble matter was removed by filtration. The filtrate was washed with 0.5 N hydrochloric acid, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, successively, and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate-hexane=1:4) to give 660 mg of N-acetyl-N-(2-methoxyphenyl)-2-phenoxyaniline as an oil.

reactant | N-acetyl-2-phenoxyaniline | 2.27 g | C(C)(=O)NC1=C(C=CC=C1)OC1=CC=CC=C1 | C14H13NO2
reactant | 2-iodoanisole | 1.3 ml | IC1=C(C=CC=C1)OC | C7H7IO
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | nitrobenzene | 20 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper | 133 mg | [Cu] | Cu
catalyst | copper bromide | 200 mg | [Cu](Br)Br
product | N-acetyl-N-(2-methoxyphenyl)-2-phenoxyaniline | 660 mg | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)C1=C(C=CC=C1)OC | C21H19NO3
